US05861421
To a solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynyl-1,1-(ethylenedioxy)cyclohexane (0.10 g, 0.28 mmol) and 4-bromopyridine (0.54 g, 2.8 mmol) in piperidine (1.5 mL) under an argon atmosphere were added tetrakis(triphenyl-phosphine)palladium(0) (0.013 g, 4%), copper(I) iodide (0.004 g, 6%) and a small crystal of triphenylphosphine, and the mixture was heated at 80°-85° C. for 0.5 h. Water was added, the mixture was extracted three times with dichloromethane, was dried (magnesium sulfate),and was evaporated. Purification by flash chromatography, eluting with 35:65 ethyl acetate:hexanes, provided 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(4-pyridylethynyl)-1,1-(ethylenedioxy)cyclohexane as a pale yellow oil (0.11 g, 93%). 1H-NMR (400 MHz, CDCl3) δ 8.56 (d, J=5.3 Hz, 2H), 7.33 (d, J=5.3 Hz, 2H), 7.16 (d, J=2.2 Hz, 1H), 7.09 (dd, J=8.5, 2.2 Hz, 1H), 6.85 (d, J=8.5 Hz, 1H), 4.80 (m, 1H), 4.00 (m, 4H), 3.85 (s, 3H), 2.0-2.2 (m, 6H), 1.8-2.0 (m, 8H), 1.59 (m, 2H).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynyl-1,1-(ethylenedioxy)cyclohexane | 0.28 mmol, 0.10 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#C | C22H28O4
reactant | 4-bromopyridine | 2.8 mmol, 0.54 g | BrC1=CC=NC=C1 | C5H4BrN
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Water | O | H2O
solvent | piperidine | 1.5 mL | N1CCCCC1 | C5H11N
catalyst | copper(I) iodide | 0.004 g | [Cu]I
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(4-pyridylethynyl)-1,1-(ethylenedioxy)cyclohexane | 0.11 g, 93% | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#CC2=CC=NC=C2 | C27H31NO4
